* Generic op-amp non-inverting amplifier
.include ../../lib/claw_opamps.lib
VIN in 0 PULSE(0 1 0 1u 1u 5m 10m)
VCC vcc 0 5
VEE vee 0 -5
XU1 in fb vcc vee out CLAW_IDEAL_OPAMP
RG fb 0 10k
RF fb out 20k
RL out 0 10k
.tran 0 4m 0 5u
.meas TRAN vout_2ms FIND V(out) AT=2m
.meas TRAN gain_2ms PARAM vout_2ms/1
.end
